US07723336B2
To a flask was added ethyl 2-(3-chlorophenyl)-2-oxoacetate (1.8 g, 8.47 mmol) and acetic anhydride (1.60 ml, 16.93 mmol) in DCE (5 ml) at RT. To the resulting solution was added titanium(IV) chloride (16.93 ml, 16.93 mmol) and tributylamine (2.42 ml, 10.16 mmol). The solution was heated to reflux for 12 hours. The solution was then cooled in ice, and a solution of ammonium chloride was added. The mixture was stirred for 30 min. LC/MS indicated all starting material was gone. The solution was washed with 1×NH4Cl, 1N HCl, water, dried and concentrated in vacuo to provide 3-(3-chlorophenyl)furan-2,5-dione which was used as is in the next reaction. LC/MS, m/e 209 (M+1). HPLC Rt, 2.89 min. Waters Sunfire C18 column (4.6×50 mm). 0%-100% B. Solvent B: (90% MeOH, 10% H2O, 0.1% TFA). Solvent A: (10% MeOH, 90% H2O, 0.1% TFA). Gradient, start % B=0, final % B=100, gradient time 4 min. hold at 100% B 1 min, flow rate 4 mL/min.

reactant | ethyl 2-(3-chlorophenyl)-2-oxoacetate | 8.47 mmol, 1.8 g | ClC=1C=C(C=CC1)C(C(=O)OCC)=O | C10H9ClO3
reactant | acetic anhydride | 16.93 mmol, 1.60 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | tributylamine | 10.16 mmol, 2.42 ml | C(CCC)N(CCCC)CCCC | C12H27N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DCE | 5 ml | ClCCCl | C2H4Cl2
catalyst | titanium(IV) chloride | 16.93 mmol, 16.93 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 3-(3-chlorophenyl)furan-2,5-dione | ClC=1C=C(C=CC1)C=1C(OC(C1)=O)=O | C10H5ClO3
